US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (200 mg, 0.68 mmol) and {2-[(6-amino-pyridin-3-yl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester (200 mg, 0.75 mmol), followed by deprotection using General Procedure A to give 2-{5-[(2-amino-ethyl)-methyl-amino]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 34%). MS (ESI) m/z 423.4 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.68 mmol, 200 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | {2-[(6-amino-pyridin-3-yl)-methyl-amino]-ethyl}-carbamic acid tert-butyl ester | 0.75 mmol, 200 mg | C(C)(C)(C)OC(NCCN(C)C=1C=NC(=CC1)N)=O | C13H22N4O2
product | 2-{5-[(2-amino-ethyl)-methyl-amino]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 100 mg, 34% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N(C)CCN)N1C1CCCC1)C | C22H30N8O
